US07230098B2
2-diethylamino-ethanesulfonic acid {4-[6-amino-5-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-3-yl]-phenyl)amide was prepared following the general Suzuki coupling procedure 3 from 5-bromo-3-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-2-ylamine and 2-diethylamino-ethanesulfonic acid [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide prepared in part 2 as a white solid in 60% yield.

reactant | 5-bromo-3-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-2-ylamine | BrC=1C=C(C(=NC1)N)OCC1=C(C(=CC=C1F)F)Cl | C12H8BrClF2N2O
reactant | 2-diethylamino-ethanesulfonic acid [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NS(=O)(=O)CCN(CC)CC)C | C18H31BN2O4S
product | 2-diethylamino-ethanesulfonic acid {4-[6-amino-5-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-3-yl]-phenyl)amide | 60% yield | NC1=C(C=C(C=N1)C1=CC=C(C=C1)NS(=O)(=O)CCN(CC)CC)OCC1=C(C(=CC=C1F)F)Cl | C24H27ClF2N4O3S
